*  Sonnet Data File
*  From: emgraph Version : 16.56
*  From Project: Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness
*  Data is De-embedded 
*  Data File Written: 03/24/2020 17:01:58
* < HDATE 03/06/2020 17:23:53
* < MDATE 03/06/2020 17:24:47
* < PARAMS
* < ILD_thickness = 0.6
* < ILD_dielectric_const = 3.8
* < END PARAMS
*  Spice Data
* Limits: C>0.01pF L<100.0nH R<1000.0Ohms K>0.01
    *  Analysis frequencies: 100.0, 110.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param59_0 1 2 3 4 REF
C_C1 1 REF 1.0978917801706pf
C_C2 1 2 13.442357530286pf
C_C3 1 3 0.0129576679809pf
C_C4 1 4 0.187782863324pf
C_C5 2 REF 1.2593063350536pf
C_C6 2 3 0.0947518120704pf
C_C7 3 REF 0.3164648837194pf
C_C8 3 4 7.403817006386pf
C_C9 4 REF 0.3133610120869pf
L_L1 3 5 1.3148196974081nh
R_RL1 5 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param59_0

    *  Analysis frequencies: 110.0, 120.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param59_1 1 2 3 4 REF
C_C1 1 REF 0.8280358877316pf
C_C2 1 2 13.672298093781pf
C_C3 1 3 0.0130354626277pf
C_C4 1 4 0.1884458518653pf
C_C5 2 REF 0.9930371579587pf
C_C6 2 3 0.0943605332873pf
C_C7 3 REF 0.3167969084498pf
C_C8 3 4 5.5082208340124pf
C_C9 4 REF 0.3131335473462pf
R_R1 1 2 931.31955047963
L_L1 3 5 1.3163869220275nh
R_RL1 5 4 1.8544274553e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param59_1

    *  Analysis frequencies: 120.0, 130.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param59_2 1 2 3 4 REF
C_C1 1 REF 0.6415691333288pf
C_C2 1 2 13.876617401863pf
C_C3 1 3 0.01296333314pf
C_C4 1 4 0.1894347781019pf
C_C5 2 REF 0.8099584960274pf
C_C6 2 3 0.0940509141672pf
C_C7 3 REF 0.3171977354828pf
C_C8 3 4 4.1832934402893pf
C_C9 4 REF 0.3130692321797pf
R_R1 1 2 902.60879944072
L_L1 3 5 1.3176934012743nh
R_RL1 5 4 1.2219287783e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param59_2

    *  Analysis frequencies: 130.0, 145.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param59_3 1 2 3 4 REF
C_C1 1 REF 0.4869199723439pf
C_C2 1 2 14.120458561381pf
C_C3 1 3 0.0126844661529pf
C_C4 1 4 0.191131672095pf
C_C5 2 REF 0.6595449217708pf
C_C6 2 3 0.0938163669075pf
C_C7 3 REF 0.3177351455667pf
C_C8 3 4 3.0418083799509pf
C_C9 4 REF 0.3131361719638pf
R_R1 1 2 886.21925949074
L_L1 3 5 1.3190170343944nh
R_RL1 5 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param59_3

    *  Analysis frequencies: 145.0, 160.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param59_4 1 2 3 4 REF
C_C1 1 REF 0.3717906881595pf
C_C2 1 2 14.415767899272pf
C_C3 1 3 0.0121379480075pf
C_C4 1 4 0.1937417886133pf
C_C5 2 REF 0.5496670326496pf
C_C6 2 3 0.0937802417869pf
C_C7 3 REF 0.3183460130998pf
C_C8 3 4 2.1255473352059pf
C_C9 4 REF 0.3133231367015pf
R_R1 1 2 888.2088937909
L_L1 3 5 1.3203414880211nh
R_RL1 5 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param59_4

    *  Analysis frequencies: 160.0, 175.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param59_5 1 2 3 4 REF
C_C1 1 REF 0.30467249282pf
C_C2 1 2 14.73328352586pf
C_C3 1 3 0.0113875097044pf
C_C4 1 4 0.1969834043515pf
C_C5 2 REF 0.4881929672175pf
C_C6 2 3 0.0940353874559pf
C_C7 3 REF 0.3188690306905pf
C_C8 3 4 1.5180044489103pf
C_C9 4 REF 0.313556438002pf
R_R1 1 2 912.27943693769
L_L1 3 5 1.3214127162465nh
R_RL1 5 4 -1.077798083e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param59_5

    *  Analysis frequencies: 175.0, 190.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param59_6 1 2 3 4 REF
C_C1 1 REF 0.2661716286037pf
C_C2 1 2 15.084753036256pf
C_C3 1 3 0.0104547031795pf
C_C4 1 4 0.2008380292845pf
C_C5 2 REF 0.4558315080299pf
C_C6 2 3 0.0945853493108pf
C_C7 3 REF 0.3192792905787pf
C_C8 3 4 1.1008746354341pf
C_C9 4 REF 0.3137889826104pf
R_R1 1 2 959.95581103997
L_L1 3 5 1.322293858819nh
R_RL1 5 4 -1.739105966e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param59_6

    *  Analysis frequencies: 190.0, 210.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param59_7 1 2 3 4 REF
C_C1 1 REF 0.2426460529523pf
C_C2 1 2 15.5518722752pf
C_C3 1 4 0.2061451924312pf
C_C4 2 REF 0.4402311317211pf
C_C5 2 3 0.0956072155586pf
C_C6 3 REF 0.3196121119931pf
C_C7 3 4 0.7670387518566pf
C_C8 4 REF 0.3140276087525pf
L_L1 3 5 1.3231261762668nh
R_RL1 5 4 -2.393285831e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param59_7

    *  Analysis frequencies: 210.0, 230.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param59_8 1 2 3 4 REF
C_C1 1 REF 0.2307938517837pf
C_C2 1 2 16.16412010158pf
C_C3 1 4 0.2131891255699pf
C_C4 2 REF 0.43840354316pf
C_C5 2 3 0.0972308225751pf
C_C6 3 REF 0.3198289656083pf
C_C7 3 4 0.508989303469pf
C_C8 4 REF 0.3142404282483pf
L_L1 3 5 1.323913047965nh
R_RL1 5 4 -3.012991777e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param59_8

    *  Analysis frequencies: 230.0, 255.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param59_9 1 2 3 4 REF
C_C1 1 REF 0.2271744480625pf
C_C2 1 2 16.979282175386pf
C_C3 1 4 0.2225540029023pf
C_C4 2 REF 0.447595189667pf
C_C5 2 3 0.0996730520985pf
C_C6 3 REF 0.3199061913478pf
C_C7 3 4 0.3177727273522pf
C_C8 4 REF 0.3144021809969pf
L_L1 3 5 1.3246132178623nh
R_RL1 5 4 -3.521738881e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param59_9

    *  Analysis frequencies: 255.0, 280.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param59_10 1 2 3 4 REF
C_C1 1 REF 0.2276041318245pf
C_C2 1 2 18.053478842465pf
C_C3 1 4 0.2347779259059pf
C_C4 2 REF 0.4642523302912pf
C_C5 2 3 0.1031255956346pf
C_C6 3 REF 0.3198534129017pf
C_C7 3 4 0.1783748289459pf
C_C8 4 REF 0.3145036305197pf
L_L1 3 5 1.3252412084297nh
R_RL1 5 4 -3.878713733e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param59_10

    *  Analysis frequencies: 280.0, 310.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param59_11 1 2 3 4 REF
C_C1 1 REF 0.2285946204324pf
C_C2 1 2 19.49733999684pf
C_C3 1 4 0.2509861612953pf
C_C4 2 REF 0.4862457467416pf
C_C5 2 3 0.1079686799399pf
C_C6 3 REF 0.3196881686539pf
C_C7 3 4 0.0794736429234pf
C_C8 4 REF 0.3145481126887pf
L_L1 1 5 83.202893224023nh
R_RL1 5 2 16.507686977068
L_L2 3 6 1.3257584501319nh
R_RL2 6 4 -4.007747816e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param59_11

    *  Analysis frequencies: 310.0, 340.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param59_12 1 2 3 4 REF
C_C1 1 REF 0.2270079883014pf
C_C2 1 2 21.439712400964pf
C_C3 1 4 0.2724896339852pf
C_C4 2 REF 0.5120359848143pf
C_C5 2 3 0.1146413150448pf
C_C6 3 REF 0.319442138151pf
C_C7 4 REF 0.3145563349224pf
L_L1 1 5 51.088369956387nh
R_RL1 5 2 11.005439209026
L_L2 3 6 1.3261709792581nh
R_RL2 6 4 -3.867640044e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param59_12

    *  Analysis frequencies: 340.0, 375.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param59_13 1 2 3 4 REF
C_C1 1 REF 0.2197070507679pf
C_C2 1 2 24.140149575753pf
C_C3 1 4 0.3020000447544pf
C_C4 2 REF 0.5418195476104pf
C_C5 2 3 0.1240491947733pf
C_C6 3 REF 0.3191372904676pf
C_C7 4 REF 0.3145597748799pf
R_R1 1 2 -932.1054898503
L_L1 1 5 31.060182179227nh
R_RL1 5 2 6.8988261256391
L_L2 3 6 1.3260907404107nh
R_RL2 6 4 -3.415572701e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param59_13

    *  Analysis frequencies: 375.0, 410.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param59_14 1 2 3 4 REF
C_C1 1 REF 0.2033999036493pf
C_C2 1 2 27.970805650141pf
C_C3 1 4 0.3434343453095pf
C_C4 2 REF 0.5771405110729pf
C_C5 2 3 0.1374974544455pf
C_C6 3 REF 0.3187894496813pf
C_C7 4 REF 0.3146028315317pf
R_R1 1 2 -555.2331465766
L_L1 1 5 18.495697650213nh
R_RL1 5 2 4.3034098221597
L_L2 3 6 1.3257958973536nh
R_RL2 6 4 -2.635589408e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param59_14

    *  Analysis frequencies: 410.0, 450.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param59_15 1 2 3 4 REF
C_C1 1 REF 0.1724797198599pf
C_C2 1 2 33.730749480827pf
C_C3 1 4 0.40526562391pf
C_C4 2 REF 0.6228590124808pf
C_C5 2 3 0.1578041620323pf
C_C6 3 REF 0.3183923759146pf
C_C7 4 REF 0.3147532411822pf
R_R1 1 2 -369.7719830445
L_L1 1 5 10.749964199694nh
R_RL1 5 2 3.3581710531034
L_L2 3 6 1.3252834841407nh
R_RL2 6 4 -1.481174331e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param59_15

    *  Analysis frequencies: 450.0, 495.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param59_16 1 2 3 4 REF
C_C1 1 REF 0.1123185040555pf
C_C2 1 2 43.68970206362pf
C_C3 1 4 0.5116610361849pf
C_C4 2 REF 0.6942222214221pf
C_C5 2 3 0.1929817761709pf
C_C6 3 REF 0.3178815930676pf
C_C7 4 REF 0.3151608052166pf
R_R1 1 2 -258.638824899
L_L1 1 5 6.3738972147033nh
R_RL1 5 2 1.5555007435032
L_L2 3 6 1.3243785634903nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param59_16

    *  Analysis frequencies: 495.0, 545.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param59_17 1 2 3 4 REF
C_C1 1 2 63.409353692495pf
C_C2 1 4 0.7218329906201pf
C_C3 2 REF 0.8278083451052pf
C_C4 2 3 0.2626662505489pf
C_C5 3 REF 0.3171248935604pf
C_C6 4 REF 0.3162147562848pf
R_R1 1 2 -193.4052486376
L_L1 1 5 2.8801852885145nh
R_RL1 5 2 0.2211883385512
L_L2 3 6 1.3226175203271nh
R_RL2 6 4 1.1858549215e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param59_17

    *  Analysis frequencies: 545.0, 600.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param59_18 1 2 3 4 REF
C_C1 1 2 113.43095649865pf
C_C2 1 4 1.2546631279252pf
C_C3 2 REF 1.1593295015792pf
C_C4 2 3 0.4393540429993pf
C_C5 3 REF 0.315631112859pf
C_C6 4 REF 0.3193464803856pf
R_R1 1 2 -207.8411419281
L_L1 1 5 1.0508442287304nh
R_RL1 5 2 0.0371581759855
L_L2 1 6 48.743193088666nh
R_RL2 6 3 0.0239402351689
L_L3 1 7 48.014688782675nh
R_RL3 7 4 0.0241840178134
L_L4 2 8 48.844319798463nh
R_RL4 8 3 0.0018901713566
L_L5 2 9 48.119086339717nh
R_RL5 9 4 0.0018038977969
L_L6 3 10 1.318264568296nh
R_RL6 10 4 2.5543998071e-5
Kn_K1 L_L1 L_L2 0.0663495977171
Kn_K2 L_L1 L_L3 0.0666208120132
Kn_K3 L_L1 L_L4 -0.080396163109
Kn_K4 L_L1 L_L5 -0.081229734835
Kn_K5 L_L2 L_L3 0.9864035953992
Kn_K6 L_L2 L_L4 0.9892323068322
Kn_K7 L_L2 L_L5 0.9755279536267
Kn_K8 L_L2 L_L6 -0.127667551917
Kn_K9 L_L3 L_L4 0.9756102035325
Kn_K10 L_L3 L_L5 0.9890695214962
Kn_K11 L_L3 L_L6 0.0370644160483
Kn_K12 L_L4 L_L5 0.9864321066454
Kn_K13 L_L4 L_L6 -0.127331514399
Kn_K14 L_L5 L_L6 0.0372295258146
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param59_18

    *  Analysis frequencies: 600.0, 660.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param59_19 1 2 3 4 REF
C_C1 1 2 342.22281015101pf
C_C2 1 4 3.6926747342011pf
C_C3 2 REF 2.6679215251357pf
C_C4 2 3 1.2470018275471pf
C_C5 3 REF 0.3099233881308pf
C_C6 4 REF 0.3349646461145pf
R_R1 1 2 27.650028671505
L_L1 1 5 31.273174065118nh
R_RL1 5 REF -0.544485879891
L_L2 1 6 0.2365935753847nh
R_RL2 6 2 -0.030523921548
L_L3 1 7 13.090804065883nh
R_RL3 7 3 -0.016559875734
L_L4 1 8 12.413404009253nh
R_RL4 8 4 -0.017495701268
L_L5 2 9 31.099276504465nh
R_RL5 9 REF -0.569877414055
L_L6 2 10 13.139684613156nh
R_RL6 10 3 -2.062930259e-3
L_L7 2 11 12.466671020331nh
R_RL7 11 4 -1.771389429e-3
L_L8 3 12 44.088446742494nh
R_RL8 12 REF -0.543589424227
L_L9 3 13 1.2985574582983nh
R_RL9 13 4 2.0502989759e-5
L_L10 4 14 43.402415601816nh
R_RL10 14 REF -0.544555984027
Kn_K1 L_L1 L_L2 0.0754547063359
Kn_K2 L_L1 L_L5 0.9962106334808
Kn_K3 L_L1 L_L8 0.8385060218115
Kn_K4 L_L1 L_L10 0.8449897381942
Kn_K5 L_L2 L_L3 0.0533310070984
Kn_K6 L_L2 L_L4 0.0534870302126
Kn_K7 L_L2 L_L5 1.0
Kn_K8 L_L2 L_L6 -0.080954837807
Kn_K9 L_L2 L_L7 -0.084388340714
Kn_K10 L_L2 L_L8 1.0
Kn_K11 L_L2 L_L10 1.0
Kn_K12 L_L3 L_L4 0.9494195237935
Kn_K13 L_L3 L_L5 1.0
Kn_K14 L_L3 L_L6 0.9909819277679
Kn_K15 L_L3 L_L7 0.9400421029637
Kn_K16 L_L3 L_L8 1.0
Kn_K17 L_L3 L_L9 -0.239625956864
Kn_K18 L_L3 L_L10 1.0
Kn_K19 L_L4 L_L5 1.0
Kn_K20 L_L4 L_L6 0.9404746844753
Kn_K21 L_L4 L_L7 0.9904929106474
Kn_K22 L_L4 L_L8 1.0
Kn_K23 L_L4 L_L9 0.0773562909766
Kn_K24 L_L4 L_L10 1.0
Kn_K25 L_L5 L_L8 0.8378388992581
Kn_K26 L_L5 L_L10 0.844257339913
Kn_K27 L_L6 L_L7 0.9496157432639
Kn_K28 L_L6 L_L8 1.0
Kn_K29 L_L6 L_L9 -0.238648869271
Kn_K30 L_L6 L_L10 1.0
Kn_K31 L_L7 L_L8 1.0
Kn_K32 L_L7 L_L9 0.0777359550741
Kn_K33 L_L7 L_L10 1.0
Kn_K34 L_L8 L_L9 0.1311437239208
Kn_K35 L_L8 L_L10 0.985188080485
Kn_K36 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param59_19

    *  Analysis frequencies: 660.0, 725.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param59_20 1 2 3 4 REF
C_C1 1 REF 14.217034220055pf
C_C2 1 3 7.4584680333506pf
C_C3 2 4 22.374491814283pf
C_C4 3 REF 0.3661452344959pf
C_C5 4 REF 0.1632338056637pf
R_R1 1 REF -141.6604406584
R_R2 1 2 0.9402244395076
R_R3 1 3 -269.0985888855
R_R4 1 4 88.209538608531
R_R5 2 REF 141.03212953226
R_R6 2 3 269.19857634599
R_R7 2 4 -88.25958341694
L_L1 1 5 3.620411023763nh
R_RL1 5 REF -7.81999999e-3
L_L2 1 6 0.115448604143nh
R_RL2 6 2 -0.359415134372
L_L3 1 7 2.3180134223978nh
R_RL3 7 3 -0.154306217108
L_L4 1 8 1.7564529284292nh
R_RL4 8 4 -0.224092715352
L_L5 2 9 3.6969817176601nh
R_RL5 9 REF -0.396349977037
L_L6 2 10 2.2964730096544nh
R_RL6 10 3 -0.042696699247
L_L7 2 11 1.7160462899964nh
R_RL7 11 4 -0.015905387957
L_L8 3 12 5.9278366647932nh
R_RL8 12 REF -0.180972807026
L_L9 3 13 1.1487750472916nh
R_RL9 13 4 -6.457919607e-3
L_L10 4 14 5.3731632088107nh
R_RL10 14 REF -0.254713455349
Kn_K1 L_L1 L_L2 0.0300676602767
Kn_K2 L_L1 L_L5 0.9842766035785
Kn_K3 L_L1 L_L8 0.780360574503
Kn_K4 L_L1 L_L10 0.8204306959928
Kn_K5 L_L2 L_L3 0.13240471075
Kn_K6 L_L2 L_L4 0.1730528750059
Kn_K7 L_L2 L_L5 1.0
Kn_K8 L_L2 L_L6 -0.091190262283
Kn_K9 L_L2 L_L7 -0.084297629778
Kn_K10 L_L2 L_L8 1.0
Kn_K11 L_L2 L_L9 0.0259025899059
Kn_K12 L_L2 L_L10 1.0
Kn_K13 L_L3 L_L4 0.7249737371916
Kn_K14 L_L3 L_L5 1.0
Kn_K15 L_L3 L_L6 0.9749918896576
Kn_K16 L_L3 L_L7 0.6991167132206
Kn_K17 L_L3 L_L8 0.9752507340848
Kn_K18 L_L3 L_L9 -0.524053776383
Kn_K19 L_L3 L_L10 1.0
Kn_K20 L_L4 L_L5 1.0
Kn_K21 L_L4 L_L6 0.6895648870634
Kn_K22 L_L4 L_L7 0.9668189104745
Kn_K23 L_L4 L_L8 1.0
Kn_K24 L_L4 L_L9 0.2066955183549
Kn_K25 L_L4 L_L10 1.0
Kn_K26 L_L5 L_L6 0.0112600179571
Kn_K27 L_L5 L_L8 0.7827159201543
Kn_K28 L_L5 L_L10 0.8250129910613
Kn_K29 L_L6 L_L7 0.7212885910014
Kn_K30 L_L6 L_L8 0.9931095220595
Kn_K31 L_L6 L_L9 -0.532313530564
Kn_K32 L_L6 L_L10 1.0
Kn_K33 L_L7 L_L8 1.0
Kn_K34 L_L7 L_L9 0.2023963119711
Kn_K35 L_L7 L_L10 1.0
Kn_K36 L_L8 L_L9 0.3263874131548
Kn_K37 L_L8 L_L10 0.8994315151095
Kn_K38 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param59_20

    *  Analysis frequencies: 725.0, 795.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param59_21 1 2 3 4 REF
C_C1 1 2 1081.6489961162pf
C_C2 1 4 11.57488293143pf
C_C3 2 REF 7.5431979910671pf
C_C4 2 3 3.8583515952319pf
C_C5 3 REF 0.2916659498386pf
C_C6 4 REF 0.3857039423794pf
R_R1 1 REF 174.22719324596
R_R2 1 2 -1.158250364445
R_R3 1 3 330.25029401856
R_R4 1 4 -108.656946481
R_R5 2 REF -175.0053389557
R_R6 2 3 -330.4655773134
R_R7 2 4 108.70732894374
L_L1 1 5 5.9553805790993nh
R_RL1 5 REF -0.010613477221
L_L2 1 6 0.034604718811nh
R_RL2 6 2 0.026331122685
L_L3 1 7 3.3208552556482nh
R_RL3 7 3 0.0126321755478
L_L4 1 8 2.6996115318144nh
R_RL4 8 4 0.0159134369408
L_L5 2 9 5.9119876384141nh
R_RL5 9 REF 0.0162676030189
L_L6 2 10 3.3355068451417nh
R_RL6 10 3 0.0025004247536
L_L7 2 11 2.7210633683628nh
R_RL7 11 4 0.0013019763013
L_L8 3 12 9.2251738106932nh
R_RL8 12 REF 0.0028658102362
L_L9 3 13 1.2100463101673nh
R_RL9 13 4 2.1364524836e-4
L_L10 4 14 8.5969906360627nh
R_RL10 14 REF 0.0061678181944
Kn_K1 L_L1 L_L2 0.0859071186099
Kn_K2 L_L1 L_L5 0.9970907099418
Kn_K3 L_L1 L_L8 0.8000214606165
Kn_K4 L_L1 L_L10 0.8282500989119
Kn_K5 L_L2 L_L3 0.029429872863
Kn_K6 L_L2 L_L4 0.0215165500104
Kn_K7 L_L2 L_L5 1.0
Kn_K8 L_L2 L_L6 -0.072490865134
Kn_K9 L_L2 L_L7 -0.091339666431
Kn_K10 L_L2 L_L8 1.0
Kn_K11 L_L2 L_L9 -0.016615982924
Kn_K12 L_L2 L_L10 1.0
Kn_K13 L_L3 L_L4 0.8032993827781
Kn_K14 L_L3 L_L5 1.0
Kn_K15 L_L3 L_L6 0.9948036664841
Kn_K16 L_L3 L_L7 0.7968078196141
Kn_K17 L_L3 L_L8 1.0
Kn_K18 L_L3 L_L9 -0.456773780837
Kn_K19 L_L3 L_L10 1.0
Kn_K20 L_L4 L_L5 1.0
Kn_K21 L_L4 L_L6 0.7993415591818
Kn_K22 L_L4 L_L7 0.9936239411027
Kn_K23 L_L4 L_L8 1.0
Kn_K24 L_L4 L_L9 0.1628876209076
Kn_K25 L_L4 L_L10 1.0
Kn_K26 L_L5 L_L8 0.7990222389628
Kn_K27 L_L5 L_L10 0.8267363077901
Kn_K28 L_L6 L_L7 0.8043593553202
Kn_K29 L_L6 L_L8 1.0
Kn_K30 L_L6 L_L9 -0.454077023535
Kn_K31 L_L6 L_L10 1.0
Kn_K32 L_L7 L_L8 1.0
Kn_K33 L_L7 L_L9 0.1641180830754
Kn_K34 L_L7 L_L10 1.0
Kn_K35 L_L8 L_L9 0.2750942149729
Kn_K36 L_L8 L_L10 0.9326839637179
Kn_K37 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param59_21

    *  Analysis frequencies: 795.0, 875.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param59_22 1 2 3 4 REF
C_C1 1 2 97.910518909743pf
C_C2 1 4 1.0835249584563pf
C_C3 2 REF 1.0601244032395pf
C_C4 2 3 0.3858808117408pf
C_C5 3 REF 0.3138234877611pf
C_C6 4 REF 0.3156874843147pf
R_R1 1 2 -32.56495625734
L_L1 1 5 0.2773966998485nh
R_RL1 5 2 0.0734214268632
L_L2 1 6 27.380304729609nh
R_RL2 6 3 0.0451611376448
L_L3 1 7 26.642532684194nh
R_RL3 7 4 0.0461131986114
L_L4 2 8 27.601153590869nh
R_RL4 8 3 0.0028033017829
L_L5 2 9 26.871897912388nh
R_RL5 9 4 0.0025721601127
L_L6 3 10 1.309795357297nh
R_RL6 10 4 1.0e-5
Kn_K1 L_L1 L_L2 0.0102592645846
Kn_K2 L_L1 L_L4 -0.090032473252
Kn_K3 L_L1 L_L5 -0.092805596968
Kn_K4 L_L2 L_L3 0.9758457882082
Kn_K5 L_L2 L_L4 0.9949627494562
Kn_K6 L_L2 L_L5 0.9706298347983
Kn_K7 L_L2 L_L6 -0.170957181544
Kn_K8 L_L3 L_L4 0.9710482493664
Kn_K9 L_L3 L_L5 0.9948255507317
Kn_K10 L_L3 L_L6 0.0484165963376
Kn_K11 L_L4 L_L5 0.9760426373336
Kn_K12 L_L4 L_L6 -0.169563651363
Kn_K13 L_L5 L_L6 0.048927273918
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param59_22

    *  Analysis frequencies: 875.0, 960.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param59_23 1 2 3 4 REF
C_C1 1 REF 0.2218589861649pf
C_C2 1 2 31.483576017217pf
C_C3 1 4 0.3747149179287pf
C_C4 2 REF 0.6274048211631pf
C_C5 2 3 0.1508595993919pf
C_C6 3 REF 0.3144259359311pf
C_C7 4 REF 0.3099648450455pf
R_R1 1 2 -123.9629817768
L_L1 1 5 0.6655097661916nh
R_RL1 5 2 0.1694195349498
L_L2 1 6 94.573234855518nh
R_RL2 6 3 0.1919550419634
L_L3 1 7 93.590456056483nh
R_RL3 7 4 0.190377389132
L_L4 2 8 95.690052634801nh
R_RL4 8 3 0.3023571852802
L_L5 2 9 94.71539153453nh
R_RL5 9 4 0.2991531316313
L_L6 3 10 1.3174054192444nh
R_RL6 10 4 -5.120527589e-5
Kn_K1 L_L1 L_L2 -0.028443413196
Kn_K2 L_L1 L_L3 -0.029106655317
Kn_K3 L_L1 L_L4 -0.111672672644
Kn_K4 L_L1 L_L5 -0.112757010304
Kn_K5 L_L2 L_L3 0.9930121650807
Kn_K6 L_L2 L_L4 0.9965193318332
Kn_K7 L_L2 L_L5 0.9894817765681
Kn_K8 L_L2 L_L6 -0.103035949794
Kn_K9 L_L3 L_L4 0.9896277063683
Kn_K10 L_L3 L_L5 0.9964835856709
Kn_K11 L_L3 L_L6 0.0150679783226
Kn_K12 L_L4 L_L5 0.9930940627592
Kn_K13 L_L4 L_L6 -0.102071407207
Kn_K14 L_L5 L_L6 0.0153415862897
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param59_23

    *  Analysis frequencies: 960.0, 1055.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param59_24 1 2 3 4 REF
C_C1 1 REF 0.3402328589192pf
C_C2 1 2 14.285615147315pf
C_C3 1 3 0.0285385644529pf
C_C4 1 4 0.1920386490266pf
C_C5 2 REF 0.5222980872478pf
C_C6 2 3 0.0887078387783pf
C_C7 3 REF 0.3136734046909pf
C_C8 4 REF 0.307487981184pf
R_R1 1 2 -480.5611140087
L_L1 1 5 1.0361791361091nh
R_RL1 5 2 0.1159015223801
L_L2 3 6 1.3175039909704nh
R_RL2 6 4 -5.400879172e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param59_24

    *  Analysis frequencies: 1055.0, 1160.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param59_25 1 2 3 4 REF
C_C1 1 REF 0.3884367966512pf
C_C2 1 2 7.9004955025595pf
C_C3 1 3 0.0561728723156pf
C_C4 1 4 0.1242150693123pf
C_C5 2 REF 0.4898099082573pf
C_C6 2 3 0.0640211103279pf
C_C7 3 REF 0.3123969416551pf
C_C8 4 REF 0.3054475569819pf
L_L1 1 5 1.6303741497451nh
R_RL1 5 2 3.9244749084e-4
L_L2 3 6 1.3153317797434nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param59_25

    *  Analysis frequencies: 1160.0, 1200.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param59_26 1 2 3 4 REF
C_C1 1 REF 0.4068478467329pf
C_C2 1 2 6.0006321495436pf
C_C3 1 3 0.0669221857578pf
C_C4 1 4 0.1026968080834pf
C_C5 2 REF 0.4832797484222pf
C_C6 2 3 0.0556183378857pf
C_C7 2 4 0.0290895129743pf
C_C8 3 REF 0.3112927334931pf
C_C9 4 REF 0.3040136167752pf
L_L1 1 5 1.7872869699297nh
R_RL1 5 2 1.1696705043e-4
L_L2 3 6 1.3143849141362nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param59_26

